US06147031
Preparation of 3-(isoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoic acid
To 0.80 g of methyl 3-(isoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoate were added 8 ml of ethanol and 8 ml of a 1N sodium hydroxide solution to stir at room temperature for 2 days. The reaction solution was poured into ice water, acidified with hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, then with a saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was distilled out under reduced pressure to give 0.56 g of the title compound as white crystals. m.p. 150-151° C.

reactant | methyl 3-(isoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoate | 0.80 g | O1N=C(C=C1)C=1C(=C(C(=O)OC)C=CC1S(=O)(=O)C)C | C13H13NO5S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 3-(isoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoic acid | 0.56 g | O1N=C(C=C1)C=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C12H11NO5S
